US05958869
L-arginine (17.4 g, 0.1 mols) was dissolved in 100 ml of water in a three-necked round flask, and 100 ml of i-propanol were added thereto. Then, 65.2 g (0.2 mols) of octadecylglycidyl ether were added dropwise thereto over a period of 30 minutes while being heat-refluxed and stirred. Further, the mixture was stirred under reflux for 3 hours. It was identified through TLC and gas chromatography that octadecylglycidyl ether disappeared. Thereafter, the resulting mixture was neutralized with 10.1 g (0.1 mols) of 36% hydrochloric acid. The reaction solution was concentrated under reduced pressure, and the residue was purified through silica-gel column chromatography (Kieselgel 60, eluent=mixture of chloroform, methanol and acetic acid at a ratio of 3:1:0.5) to give 10.2 g of N,N-bis(2-hydroxy-3-octadecyloxypropyl)-L-arginine hydrochloride (yield 12.3%).

reactant | L-arginine | 0.1 mols, 17.4 g | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | i-propanol | 100 ml | C(C)(C)O | C3H8O
reactant | octadecylglycidyl ether | 0.2 mols, 65.2 g | C(CCCCCCCCCCCCCCCCC)OCC1CO1 | C21H42O2
reactant | hydrochloric acid | 0.1 mols, 10.1 g | Cl | ClH
solvent | water | 100 ml | O | H2O
product | N,N-bis(2-hydroxy-3-octadecyloxypropyl)-L-arginine hydrochloride | 10.2 g, yield 12.3% | Cl.OC(CN([C@@H](CCCNC(N)=N)C(=O)O)CC(COCCCCCCCCCCCCCCCCCC)O)COCCCCCCCCCCCCCCCCCC | InChI=1S/C48H98N4O6.ClH/c1-3-5-7-9-11-13-15-17-19-21-23-25-27-29-31-33-38-57-42-44(53)40-52(46(47(55)56)36-35-37-51-48(49)50)41-45(54)43-58-39-34-32-30-28-26-24-22-20-18-16-14-12-10-8-6-4-2;/h44-46,53-54H,3-43H2,1-2H3,(H,55,56)(H4,49,50,51);1H/t44?,45?,46-;/m0./s1
